US07001910B1
20.4—Synthesis of 5-{4-[2-(methylpyrimidin-4-yl-amino)-ethoxy]-benzylidene}-thiazolidine-2,4-dione
To 2.3 g (8 mmol) 4-[2-(methylpyrimidin-4-yl-amino)-ethoxy]-benzaldehyde in 40 ml toluene 1.06 g (8.9 mmol) of 90% 2,4-thiazolidinedione is added. Then, 0.06 ml (0.78 mmol) piperidine and 0.044 ml (0.78 mmol) acetic acid are further added thereto. The mixture is heated to reflux for 5 h while separating the water that is formed with a Dean-Stark apparatus.

reactant | 4-[2-(methylpyrimidin-4-yl-amino)-ethoxy]-benzaldehyde | 8 mmol, 2.3 g | CN(CCOC1=CC=C(C=O)C=C1)C1=NC=NC=C1 | C14H15N3O2
reactant | toluene | 8.9 mmol, 40 ml, 1.06 g | C1(=CC=CC=C1)C | C7H8
reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.78 mmol, 0.06 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.78 mmol, 0.044 ml | C(C)(=O)O | C2H4O2
product | 5-{4-[2-(methylpyrimidin-4-yl-amino)-ethoxy]-benzylidene}-thiazolidine-2,4-dione | CN(CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)C1=NC=NC=C1 | C17H16N4O3S
